* C:\Dev\GitHub\ECE-2804-SpO2\Milestone_2\Signal Amplifier\Draft2.asc
V1 N001 0 AC 1
C1 N002 N001 0.47µ
R1 N002 0 677k
.ac dec 1k 0.01 1.3
.backanno
.end
