* C:\Dev\GitHub\ECE-2804-SpO2\Milestone_2\Signal Amplifier\SigAmp V2.asc
XU1 0 N003 5V -5V N004 LF356
V1 -5V 0 -5
V2 5V 0 5
I1 0 N003 SINE(40u 2u 1.3)
R1 N004 N003 50k
C1 N007 N004 0.47µ
XU2 N007 N005 5V -5V N001 LF356
XU3 0 N006 5V -5V N002 LF356
R4 N006 NC_01 1k
R5 N002 N006 10k
R6 N001 N005 10k
R2 N007 0 677k
R3 N005 0 1k
.tran 0 11 9
* Circuit by Vikram Muruganandam
* Converts 42uA (2uA AC, 40uA Carrier) signal to 2Vpp Output
.lib LF356.sub
.backanno
.end
