* Z:\run\user\1000\kio-fuse-hmJmqG\smb\User@192.168.122.191\Shared\CSS_Github\Class_24012024\ECE-2804-SpO2\Milestone_2\Signal Amplifier\VtoI.asc
V1 -5V 0 -5
V2 5V 0 5
XU1 0 N001 5V -5V Out LF356
R1 Out N001 50k
I1 0 N001 SINE(40u 2u 1)
.tran 1
* Converts 42uA (2uA AC, 40uA Carrier) signal to 1Vpp Output.
.lib LF356.sub
.backanno
.end
